US05593984
Preparation of 6-formylpyrrolo[1,2-a]pyrazine
7.28 of 6-hydroxymethylpyrrolo[1,2-a]pyrazine prepared in Preparation Example 18 was dissolved in 400 ml of dioxane; and 10 g of manganese(IV) dioxide was added thereto. The reaction mixture was refluxed for 30 minutes and then cooled to room temperature. The resulting solution was filtered; and the filtrate was concentrated under a reduced pressure to yield 5.3 g of title compound.

reactant | 6-hydroxymethylpyrrolo[1,2-a]pyrazine | OCC1=CC=C2N1C=CN=C2 | C8H8N2O
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
catalyst | manganese(IV) dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | 6-formylpyrrolo[1,2-a]pyrazine | 5.3 g | C(=O)C1=CC=C2N1C=CN=C2 | C8H6N2O
